US06716863B2
Benzyl 4-(3-iodopropyl)phenyl ether (2.47 g), 1H-1,2,3-triazole (629 mg), and potassium carbonate (1.26 g) were suspended in DMF (17.5 ml), followed by stirring at 70° C. for 18.5 hours. The reaction mixture was returned to room temperature and extracted with ethyl acetate, after which it was washed with water and saturated saline. Under reduced pressure, the solvent was distilled off; the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:3) to yield 1-[3-(4-benzyloxyphenyl)propyl]-1H-1,2,3-triazole (856 mg).

reactant | Benzyl 4-(3-iodopropyl)phenyl ether | 2.47 g | ICCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17IO
reactant | 1H-1,2,3-triazole | 629 mg | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 1.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 17.5 ml | CN(C)C=O | C3H7NO
product | 1-[3-(4-benzyloxyphenyl)propyl]-1H-1,2,3-triazole | 856 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCN1N=NC=C1 | C18H19N3O
